US07268231B2
To a mixture of 2-(cyclopropanecarbonyl-amino)-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (109.6 mg, 0.36 mmol), 1,5-naphthyridine-6-carboxaldehyde (47.4 mg, 0.30 mmol) and iPrOH (5.0 mL) in a 25-mL round bottom flask was added piperidine (0.05 mL) and the suspension was then heated under refluxing for 3.5 hrs to give a suspension. The reaction mixture was cooled to r.t. and the solid was collected by filtration, washed with MeOH, and ether to give cyclopropanecarboxylic acid (5-[1,5]naphthyridin-2-ylmethylene-4-oxo-4,5-dihydro-1H-imidazol-2-yl)-amide as a light brown solid, 32.6 mg (35.4%). HR-ES (+) m/e calcd. for C16H13N5O2: (M)+ 307.1069. Found: 307.1066.

reactant | 2-(cyclopropanecarbonyl-amino)-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.36 mmol, 109.6 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)NC(=O)C1CC1 | C15H15N3O4
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.30 mmol, 47.4 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | piperidine | 0.05 mL | N1CCCCC1 | C5H11N
solvent | iPrOH | 5.0 mL | CC(C)O | C3H8O
product | cyclopropanecarboxylic acid (5-[1,5]naphthyridin-2-ylmethylene-4-oxo-4,5-dihydro-1H-imidazol-2-yl)-amide | N1=C(C=CC2=NC=CC=C12)C=C1C(N=C(N1)NC(=O)C1CC1)=O | C16H13N5O2
